US07863291B2
Step B: 4-Isothiocyanato-6-(pyridin-4-yl)pyrimidine
To a solution of 1,1′-thiocarbonyldipyridin-2(1H)-one (0.601 g, 2.59 mmol) in dichloromethane/N,N-dimethylformamide at room temperature was added 6-(pyridin-4-yl)pyrimidin-4-amine (0.297 g, 1.725 mmol). The orange mixture was heated at 60° C. for 18 hours. LC/MS showed the desired product peak as the major peak. The deep orange mixture was purified by silica gel chromatography (0-40% ethyl acetate-hexanes) to afford 4-isothiocyanato-6-(pyridin-4-yl)pyrimidine (0.055 g, 0.257 mmol, 15% yield) as an orange solid. LCMS R.T.=1.46; [M+H]+=215.09.

reactant | 1,1′-thiocarbonyldipyridin-2(1H)-one | 2.59 mmol, 0.601 g | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
reactant | 6-(pyridin-4-yl)pyrimidin-4-amine | 1.725 mmol, 0.297 g | N1=CC=C(C=C1)C1=CC(=NC=N1)N | C9H8N4
solvent | dichloromethane N,N-dimethylformamide | ClCCl.CN(C=O)C
product | 4-Isothiocyanato-6-(pyridin-4-yl)pyrimidine | N(=C=S)C1=NC=NC(=C1)C1=CC=NC=C1 | C10H6N4S
